US04157438
10 parts by weight of water are added to the mixture of poly(methylamine allyl chloride) copolymer and hydrated silica, then filtered to remove the hydrated silica; then 1.5 parts by weight of epichlorohydrin is gradually added while agitating and keeping the temperature below 70° C. for 10 to 60 minutes thereby producing a liquid poly(methylamine allyl chloride epichlorohydrin) resinous product. It is then heated to 80° to 100° C. for 10 to 60 minutes thereby producing a solid resinous product.

reactant | methylamine allyl chloride | C(C=C)Cl.CN
reactant | water | O | H2O
product | methylamine allyl chloride epichlorohydrin | C(Cl)C1CO1.C(C=C)Cl.CN | InChI=1S/C3H5ClO.C3H5Cl.CH5N/c4-1-3-2-5-3;1-2-3-4;1-2/h3H,1-2H2;2H,1,3H2;2H2,1H3
